US04163112
Preparation of 4-(3,3-Dimethoxypropoxy)phenol
The monosodium salt of hydroquinone (0.05 mole) and dimethylformamide (75 ml) are charged under nitrogen gas into a glass reaction vessel equipped with a mechanical stirrer, thermometer and addition funnel. The mixture is stirred until dissolved, and 1-chloro-3,3-dimethoxypropane (0.05 mole) is added dropwise over a period of about 20 minutes. After the addition is completed, the reaction mixture is heated at about 90° C. with stirring for a period of about 48 hours. After this time water (200 ml) is added, and the reaction mixture is carefully neutralized with ammonium chloride. The reaction mixture is then extracted with chloroform, and the organic phase is separated from the aqueous phase. The organic phase is then stripped of solvent, leaving an oil. This oil is distilled under reduced pressure to yield the desired product 4-(3,3-dimethoxypropoxy)phenol.

reactant | monosodium | [Na] | Na
reactant | hydroquinone | 0.05 mole | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 1-chloro-3,3-dimethoxypropane | 0.05 mole | ClCCC(OC)OC | C5H11ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | 200 ml | O | H2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 4-(3,3-dimethoxypropoxy)phenol | COC(CCOC1=CC=C(C=C1)O)OC | C11H16O4
